### PR TITLE
[Merged by Bors] - feat(NumberTheory.NumberField.Units): proof of Dirichlet's unit theorem

### PR DESCRIPTION
**Pull request by xroblot**
We prove Dirichlet's unit theorem. More precisely, the main results are:
```lean
def basisModTorsion : Basis (Fin (Units.rank K)) ℤ (Additive ((𝓞 K)ˣ ⧸ (torsion K)))
```
where `Units.rank := Fintype.card (InfinitePlace K) - 1` and 
```lean 
theorem exist_unique_eq_mul_prod (x : (𝓞 K)ˣ) : ∃! (ζ : torsion K) (e : Fin (Units.rank K) → ℤ),
    x = ζ * ∏ i, (fundSystem K i) ^ (e i)
```
 where `fundSystem : Fin (rank K) → (𝓞 K)ˣ` is a fundamental system of units. 

The exponents in `exist_unique_eq_mul_prod` can be computed via the following result:
```lean
theorem fun_eq_repr {x ζ : (𝓞 K)ˣ} {f : Fin (rank K) → ℤ} (hζ : ζ ∈ torsion K) 
    (h : x = ζ * ∏ i, (fundSystem K i) ^ (f i)) : f = (basisModTorsion K).repr (Additive.ofMul ↑x)
```

---

- [x] depends on: #5748 
- [x] depends on: #5650 
- [x] depends on: #6436 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 1]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+    simp [ne_eq, toMul_add, map_mul, map_eq_zero, coe_ne_zero, Real.log_mul, mul_add]
+    rfl }
+
+variable {K}
+
+@[simp]
+theorem logEmbedding_component (x : (𝓞 K)ˣ) (w : {w : InfinitePlace K // w ≠ w₀}) :
+    (logEmbedding K x) w = mult w.val * Real.log (w.val x) := rfl
+
+theorem logEmbedding_sum_component (x : (𝓞 K)ˣ) :
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:202]:
```suggestion
theorem sum_logEmbedding_component (x : (𝓞 K)ˣ) :
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 2]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
 
 end torsion
 
+namespace dirichlet
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:164]: Should this maybe even be
```suggestion
namespace dirichletUnitTheorem
```
because I can imagine several topics that could go in the `dirichlet` namespace.

I assume most results in this namespace will be quite specific to the proof. If someone finds a use for one of the results more generally, that is in indication that it should be moved out of this namespace to a different place.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 3]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+      · rw [mem_closedBall_zero_iff] at hx
+        exact (le_abs_self _).trans (log_le_of_logEmbedding_le hr hx w)
+    refine Set.Finite.of_finite_image ?_ ((coe_injective K).injOn _)
+    refine (Embeddings.finite_of_norm_le K ℂ
+        (Real.exp ((Fintype.card (InfinitePlace K)) * r))).subset ?_
+    rintro _ ⟨x, ⟨⟨h_int, h_le⟩, rfl⟩⟩
+    exact ⟨h_int, h_le⟩
+
+section span_top
+-- To prove that the span over `ℝ` of the `unit_lattice` is equal to the full space, we construct
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:298]:
```suggestion
-- To prove that the span over `ℝ` of the `unitLattice` is equal to the full space, we construct
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 4]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+      simp only [ne_eq, seq, _root_.map_one, Int.natAbs_one, le_refl, this, and_self]
+  | succ n =>
+      refine ⟨Nat.succ_le_iff.mpr (Int.natAbs_pos.mpr ?_), ?_⟩
+      · exact Algebra.norm_ne_zero_iff.mpr (seq K w₁ hB n.succ).prop
+      · rw [← Nat.cast_le (α := ℚ), Int.cast_natAbs, Int.cast_abs]
+        change |algebraMap ℤ ℚ _| ≤ _
+        rw [← Algebra.norm_localization ℤ (Sₘ := K) (nonZeroDivisors ℤ)]
+        exact (seq_next K w₁ hB (seq K w₁ hB n).prop).choose_spec.2.2
+
+/-- Construct an unit associated to the place `w₁`. The family, for `w₁ ≠ w₀`, formed by the
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:390]:
```suggestion
/-- Construct a unit associated to the place `w₁`. The family, for `w₁ ≠ w₀`, formed by the
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 5]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+
+theorem unitLattice_moduleFree : Module.Free ℤ (unitLattice K) := by
+  have := unitLattice_discrete K
+  exact Zlattice.module_free ℝ (unitLattice_span_eq_top K)
+
+theorem unitLattice_moduleFinite : Module.Finite ℤ (unitLattice K) := by
+  have := unitLattice_discrete K
+  exact Zlattice.module_finite ℝ (unitLattice_span_eq_top K)
+
+theorem unitLattice_rank : finrank ℤ (unitLattice K) = Units.rank K := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:482]: Should this maybe be a simp-lemma?

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 6]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+protected theorem finrank :
+    finrank ℝ ({w : InfinitePlace K // w ≠ w₀} → ℝ) = Units.rank K := by
+  simp only [finrank_fintype_fun_eq_card, Fintype.card_subtype_compl,
+    Fintype.card_ofSubsingleton, rank]
+
+theorem unitLattice_moduleFree : Module.Free ℤ (unitLattice K) := by
+  have := unitLattice_discrete K
+  exact Zlattice.module_free ℝ (unitLattice_span_eq_top K)
+
+theorem unitLattice_moduleFinite : Module.Finite ℤ (unitLattice K) := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:478]: Shouldn't these both be instances?

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 7]
```diff
@@ -149,4 +161,398 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+  have := unitLattice_discrete K
+  exact Zlattice.module_finite ℝ (unitLattice_span_eq_top K)
+
+theorem unitLattice_rank : finrank ℤ (unitLattice K) = Units.rank K := by
+  have := unitLattice_discrete K
+  rw [← dirichlet.finrank]
+  exact Zlattice.rank ℝ (unitLattice_span_eq_top K)
+
+end dirichlet
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:487]: The three results above should be outside the namespace, I think. They are main outcomes of all the work above, and they are also results that will be used in applications of this file, just like the results below.

**Comment by jcommelin** [comment]
This is a really nice milestone! It's been quite a journey, but now all the prerequisites are in you're really on the home straight!

**Comment by xroblot** [comment]
> This is a really nice milestone! It's been quite a journey, but now all the prerequisites are in you're really on the home straight!

Thanks! It was a very interesting project to work on. And now I have to find something new to work on ;)

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean]: I have made instances of the results that say that the `unitLattice` is discrete, a free module and a finite module but still give names to the instances (in the `NumberField.Units` namespace).

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 8]
```diff
@@ -149,4 +161,400 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+instance _root_.NumberField.Units.instModuleFinite_unitLattice : Module.Finite ℤ (unitLattice K) :=
+  Zlattice.module_finite ℝ (unitLattice_span_eq_top K)
+
+@[simp]
+theorem _root_.NumberField.Units.unitLattice_rank :
+    finrank ℤ (unitLattice K) = Units.rank K := by
+  rw [← dirichletUnitTheorem.finrank]
+  exact Zlattice.rank ℝ (unitLattice_span_eq_top K)
+
+end dirichletUnitTheorem
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/Units.lean:489]: If you close this namespace before stating the above results, then you don't need to do the `_root_` dance in their names.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 9]
```diff
@@ -15,22 +16,33 @@ import Mathlib.RingTheory.RootsOfUnity.Basic
...
+
 ## Main results
+
 * `isUnit_iff_norm`: an algebraic integer `x : 𝓞 K` is a unit if and only if `|norm ℚ x| = 1`.
-* `mem_torsion`: a unit `x : (𝓞 K)ˣ` is torsion iff `w x = 1` for all infinite places of `K`.
+
+* `Units.mem_torsion`: a unit `x : (𝓞 K)ˣ` is torsion iff `w x = 1` for all infinite places of `K`.
+
+* `Units.exist_unique_eq_mul_prod`: a unit `x : (𝓞 K)ˣ` can be written in a unique way as the
+product of a root of unity times the product of powers of units of the fundamental system.
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:34]: Ok. I also fixed a prefix missing and changed the docstring to mention explicitly "Dirichlet Unit Theorem".

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:492]: Yes, I moved this to a new section. I also added a docstring for the function `fun_eq_repr `. I am not really sure about the name of this function or if the new docstring is clear enough...

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 10]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+variable (K)
+
+/-- The logarithmic embedding of the units (seen as an `Additive` group). -/
+def logEmbedding : Additive ((𝓞 K)ˣ) →+ ({w : InfinitePlace K // w ≠ w₀} → ℝ) :=
+{ toFun := fun x w => mult w.val * Real.log (w.val (Additive.toMul x))
+  map_zero' := by simp; rfl
+  map_add' := by
+    intro _ _
+    simp [ne_eq, toMul_add, map_mul, map_eq_zero, coe_ne_zero, Real.log_mul, mul_add]
+    rfl }
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:199]:
```suggestion
  map_add' := fun _ _ => by simp [Real.log_mul, mul_add]; rfl }
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 11]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+
+variable {K}
+
+@[simp]
+theorem logEmbedding_component (x : (𝓞 K)ˣ) (w : {w : InfinitePlace K // w ≠ w₀}) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:204]: This can be called `logEmbedding_apply` (but I am not sure). I tried to auto generate it using `simps`, but unfortunately it produces a syntactically different lemma (even if it is definitionally the same).

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 12]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+    (logEmbedding K x) w = mult w.val * Real.log (w.val x) := rfl
+
+theorem sum_logEmbedding_component (x : (𝓞 K)ˣ) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:207]: If you change the name above also this should be changed.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 13]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+    · refine (Finset.sum_subtype _ (fun w => ?_) (fun w => (mult w) * (Real.log (w (x : K))))).symm
+      exact ⟨Finset.ne_of_mem_erase, fun h => Finset.mem_erase_of_ne_of_mem h (Finset.mem_univ w)⟩
+    · norm_num
+  · exact fun w _ => pow_ne_zero _ (AbsoluteValue.ne_zero _ (coe_ne_zero x))
+
+theorem mult_log_place_eq_zero {x : (𝓞 K)ˣ} {w : InfinitePlace K} :
+    mult w * Real.log (w x) = 0 ↔ w x = 1 := by
+  rw [mul_eq_zero, or_iff_right, Real.log_eq_zero, or_iff_right, or_iff_left]
+  · have : 0 ≤ w x := map_nonneg _ _
+    linarith
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:225]:
```suggestion
  · linarith [(map_nonneg _ _ : 0 ≤ w x)]
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 14]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+  · simp only [ne_eq, map_eq_zero, coe_ne_zero x]
+  · refine (ne_of_gt ?_)
+    rw [mult]; split_ifs <;> norm_num
+
+theorem logEmbedding_eq_zero_iff (x : (𝓞 K)ˣ) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:230]:
```suggestion
theorem logEmbedding_eq_zero_iff {x : (𝓞 K)ˣ} :
```
Just because in the above iff lemmas the variable was implicit.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 15]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+    logEmbedding K x = 0 ↔ x ∈ torsion K := by
+  rw [mem_torsion]
+  refine ⟨fun h w => ?_, fun h => ?_⟩
+  · by_cases hw : w = w₀
+    · suffices - mult w₀ * Real.log (w₀ (x : K)) = 0 by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:235]:
```suggestion
    · suffices -mult w₀ * Real.log (w₀ (x : K)) = 0 by
```
More readable I think.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 16]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+
+theorem unitLattice_inter_ball_finite (r : ℝ) :
+    ((unitLattice K : Set ({ w : InfinitePlace K // w ≠ w₀} → ℝ)) ∩
+      Metric.closedBall 0 r).Finite := by
+  obtain hr | hr := lt_or_le r 0
+  · convert Set.finite_empty
+    rw [Metric.closedBall_eq_empty.mpr hr]
+    exact Set.inter_empty _
+  · suffices Set.Finite {x : (𝓞 K)ˣ | IsIntegral ℤ (x : K) ∧
+        ∀ (φ : K →+* ℂ), ‖φ x‖ ≤ Real.exp ((Fintype.card (InfinitePlace K)) * r)} by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:290]:
```suggestion
  · suffices {x : (𝓞 K)ˣ | IsIntegral ℤ (x : K) ∧
        ∀ (φ : K →+* ℂ), ‖φ x‖ ≤ Real.exp ((Fintype.card (InfinitePlace K)) * r)}.Finite by
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 17]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+
+-- To prove that the span over `ℝ` of the `unitLattice` is equal to the full space, we construct
+-- for each infinite place `w₁ ≠ w₀` a unit `u_w₁` of `K` such that, for all infinite places
+-- `w` such that `w ≠ w₁`, we have `Real.log w (u_w₁) < 0` (and thus `Real.log w₁ (u_w₁) > 0`).
+-- It follows then from a determinant computation (using `Matrix.det_ne_zero_of_neg`) that the
+-- image by `logEmbedding` of these units is a `ℝ`-linearly independent family.
+-- The unit `u_w₁` is obtained by construction a sequence `seq n` of nonzero algebraic integers
+-- that is strictly decreasing at infinite places distinct from `w₁` and of norm `≤ B`. Since
+-- there are finitely many ideals of norm `≤ B`, there exists two terms in the sequence defining
+-- the same ideal and their quotient is the desired unit `u_w₁` (see `exists_unit`).
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:313]:
```suggestion
-- To prove that the span over `ℝ` of the `unitLattice` is equal to the full space, we construct
-- for each infinite place `w₁ ≠ w₀` a unit `u_w₁` of `K` such that, for all infinite places
-- `w` such that `w ≠ w₁`, we have `Real.log w (u_w₁) < 0` (and thus `Real.log w₁ (u_w₁) > 0`).
-- It follows then from a determinant computation (using `Matrix.det_ne_zero_of_neg`) that the
-- image by `logEmbedding` of these units is a `ℝ`-linearly independent family.
-- The unit `u_w₁` is obtained by constructing a sequence `seq n` of nonzero algebraic integers
-- that is strictly decreasing at infinite places distinct from `w₁` and of norm `≤ B`. Since
-- there are finitely many ideals of norm `≤ B`, there exists two term in the sequence defining
-- the same ideal and their quotient is the desired unit `u_w₁` (see `exists_unit`).
```
Again you can make this visible in the doc.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 18]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+  | n + 1 =>
+    ⟨(seq_next K w₁ hB (seq n).prop).choose, (seq_next K w₁ hB (seq n).prop).choose_spec.1⟩
+
+/-- The terms of the sequence are nonzero. -/
+theorem seq_ne_zero (n : ℕ) : (seq K w₁ hB n : K) ≠ 0 := by
+  refine (map_ne_zero_iff (algebraMap (𝓞 K) K) ?_).mpr (seq K w₁ hB n).prop
+  exact IsFractionRing.injective { x // x ∈ 𝓞 K } K
+
+/-- The sequence is strictly decreasing at infinite places distinct from `w₁`. -/
+theorem seq_antitone {n m : ℕ} (h : n < m) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:363]: Since we have [Antitone](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#Antitone) this name should probably be changed (or the statement modified to use `Antitone`, but this seems annoying). Also, is there a reason why you use `∀ w ...` instead of the more common `{w : ...} (hw : ...)`?

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 19]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+      cases eq_or_lt_of_le (Nat.le_of_lt_succ h) with
+      | inl hr =>
+          rw [hr]
+          exact (seq_next K w₁ hB (seq K w₁ hB m).prop).choose_spec.2.1 w hw
+      | inr hr =>
+          refine lt_trans ?_ (m_ih hr w hw)
+          exact (seq_next K w₁ hB (seq K w₁ hB m).prop).choose_spec.2.1 w hw
+
+/-- The terms of the sequence have norm bounded by `B`. -/
+theorem seq_norm_bdd (n : ℕ) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:380]: We usually state two separate results rather than using `∧`.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 20]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+      · rw [← Nat.cast_le (α := ℚ), Int.cast_natAbs, Int.cast_abs]
+        change |algebraMap ℤ ℚ _| ≤ _
+        rw [← Algebra.norm_localization ℤ (Sₘ := K) (nonZeroDivisors ℤ)]
+        exact (seq_next K w₁ hB (seq K w₁ hB n).prop).choose_spec.2.2
+
+/-- Construct a unit associated to the place `w₁`. The family, for `w₁ ≠ w₀`, formed by the
+image by the `logEmbedding` of these units  is `ℝ`-linearly independent, see
+`unit_lattice_span_eq_top`. -/
+theorem exists_unit (w₁ : InfinitePlace K ) :
+    ∃ u : (𝓞 K)ˣ, (∀ w : InfinitePlace K, w ≠ w₁ → Real.log (w u) < 0) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:401]:
```suggestion
    ∃ u : (𝓞 K)ˣ, ∀ w : InfinitePlace K, w ≠ w₁ → Real.log (w u) < 0 := by
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 21]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+  Zlattice.module_finite ℝ (unitLattice_span_eq_top K)
+
+@[simp]
+theorem unitLattice_rank :
+    finrank ℤ (unitLattice K) = Units.rank K := by
+  rw [← Units.finrank_eq_rank]
+  exact Zlattice.rank ℝ (unitLattice_span_eq_top K)
+
+/-- A basis of the quotient `(𝓞 K)ˣ ⧸ (torsion K)` seen as an additive ℤ-module. -/
+def basisModTorsion : Basis (Fin (rank K)) ℤ (Additive ((𝓞 K)ˣ ⧸ (torsion K))) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:500]: Here you are just proving that the module is free of the given rank, right? I mean, the basis has nothing special (except that it exists!). We usually don't construct data in tactic mode since it's harder to control what happens.

Here it seems better to show that it is free and compute the rank (in practice what you did), and then use `chooseBasis` if you need a fixed basis.

**Review by riccardobrasca — APPROVED** [review]
There are 21 `Finset.` in the file, opening `Finset` at the beginning allows to get rid of `20` of them and it seems a good idea.

In any case great work, thanks a lot!

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 18 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:363]: No real good reason. I changed it.

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 19 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:380]: I split it into two lemmas.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 22]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+-- This section is devoted to the proof of Dirichlet's unit theorem
+-- We define a group morphism from `(𝓞 K)ˣ` to `{w : InfinitePlace K // w ≠ w₀} → ℝ` where `w₀`
+-- is a distinguished (arbitrary) infinite place, prove that its kernel is the torsion subgroup
+-- (see `logEmbedding_eq_zero_iff`) and that its image, called `unitLattice`, is a full
+-- `ℤ`-lattice. It follows that is a free `ℤ`-module (see `unitLattice_moduleFree `) of
+-- rank `card (InfinitePlaces K) - 1` (see `unitLattice_rank`).
+-- To prove that the `unitLattice` is a full `ℤ`-lattice, we need to prove that it is discrete
+-- (see `unitLattice_inter_ball_finite`) and that it spans the full space over `ℝ`
+-- (see ` unitLattice_span_eq_top`); this is the main part of the proof, see the section
+-- `span_top` below for more details.
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:179]: I made this explanation and the next one invisible in the doc (well, I hope I did it properly).

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:204]: I'd rather keep the name as it is even though I agree it is not great since, for me, in this context `apply` means applying a function to its argument and that would not be the case here.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 23]
```diff
@@ -149,4 +165,405 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+
+open scoped Classical
+
+variable [NumberField K]
+
+variable {K}
+
+/-- The distinguished infinite place. -/
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:187]: I do not remember anything special about that if only that there was the need to prove the instance that `InfinitePlace` was not empty...

The name `distinguished` here just mean that it plays from now on a special role compared to the other infinite place. Maybe, there is a better name for that.

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 24]
```diff
@@ -149,4 +165,416 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+    refine Set.Finite.of_finite_image ?_ ((coe_injective K).injOn _)
+    refine (Embeddings.finite_of_norm_le K ℂ
+        (Real.exp ((Fintype.card (InfinitePlace K)) * r))).subset ?_
+    rintro _ ⟨x, ⟨⟨h_int, h_le⟩, rfl⟩⟩
+    exact ⟨h_int, h_le⟩
+
+section span_top
+
+/-!
+## Section `span_top`
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:305]:
```suggestion
### Section `span_top`
```
Not 100% sure...

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 25]
```diff
@@ -149,4 +165,416 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
...
+  Module.Finite.equiv (unitLatticeEquiv K)
+
+theorem rank_modTorsion :
+    FiniteDimensional.finrank ℤ (Additive ((𝓞 K)ˣ ⧸ (torsion K))) = rank K := by
+  rw [← LinearEquiv.finrank_eq (unitLatticeEquiv K), unitLattice_rank]
+
+/-- A basis of the quotient `(𝓞 K)ˣ ⧸ (torsion K)` seen as an additive ℤ-module. -/
+def basisModTorsion : Basis (Fin (rank K)) ℤ (Additive ((𝓞 K)ˣ ⧸ (torsion K))) := by
+  refine Basis.reindex (Module.Free.chooseBasis ℤ _) (Fintype.equivOfCardEq ?_)
+  rw [← FiniteDimensional.finrank_eq_card_chooseBasisIndex, rank_modTorsion, Fintype.card_fin]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units.lean:535]:
```suggestion
def basisModTorsion : Basis (Fin (rank K)) ℤ (Additive ((𝓞 K)ˣ ⧸ (torsion K))) :=
  Basis.reindex (Module.Free.chooseBasis ℤ _) (Fintype.equivOfCardEq <| by
    rw [← FiniteDimensional.finrank_eq_card_chooseBasisIndex, rank_modTorsion, Fintype.card_fin])
```

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 21 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/Units.lean:533]: Yes, this is what I meant. I think it makes clearer that `basisModTorsion` is just a random basis.

**Comment by riccardobrasca** [comment]
One final comment: we can add
```
Module.Finite ℤ (Additive (𝓞 K)ˣ)
```
but I don't know if it is easy with current mathlib or it's better to wait for another PR. In any case thanks a lot!!

bors d+

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 24 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units.lean:305]: Actually, I think I want `#### Section span_top` so that it looks like a subsection of `### Dirichlet Unit Theorem` if my understanding of the existing code is correct.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/Units.lean:305]: I have no idea if the number of `#` is unlimited, but we can try and at worst change this in a small PR later.

**Comment by xroblot** [comment]
> One final comment: we can add
> 
> ```lean
> instance : Module.Finite ℤ (Additive (𝓞 K)ˣ)
> ```
> 
> but I don't know if it is easy with current mathlib or it's better to wait for another PR. In any case thanks a lot!!

It is not so difficult to prove but there is some API missing for things like `Additive` or `AddMonoidHom.toIntLinearMap`. I think it will have to wait for another PR (coming soon ;)
